US06555577B1
(E)-(S)-Ethyl 3-{4-[3-(4′-Acetyl-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate
The title compound (275 mg, 75%) was prepared from (E)-1-[4′-(3-hydroxy-1-methyl-propenyl)-biphenyl-4-yl]-ethanone (200 mg, 0.75 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (188 mg, 0.79 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-1-[4′-(3-hydroxy-1-methyl-propenyl)-biphenyl-4-yl]-ethanone | 0.75 mmol, 200 mg | OC/C=C(\C)/C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C18H18O2
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 0.79 mmol, 188 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 3-{4-[3-(4′-Acetyl-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate | 275 mg, 75% | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)/C | C31H34O5
